US06762180B1
(5) N-[(2-(N-benzyl-N-methyl-amino)-ethyl)-carbonyl]-N-methyl-4-nitro-aniline
Prepared from N-acryloyl-N-methyl-4-nitro-aniline and N-benzyl-N-methyl-amine

reactant | N-acryloyl-N-methyl-4-nitro-aniline | C(C=C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H10N2O3
reactant | N-benzyl-N-methyl-amine | C(C1=CC=CC=C1)NC | C8H11N
product | N-[(2-(N-benzyl-N-methyl-amino)-ethyl)-carbonyl]-N-methyl-4-nitro-aniline | C(C1=CC=CC=C1)N(C)CCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C18H21N3O3
